US03974222
In accordance with the procedure of Example 8 car-3-en-5-one is reacted with methylmercaptan by heating the reaction mixture in a suitable pressure-vessel for 3 hours to yield 3-methylthio-caran-5-on, boiling point ca 70° at 0.5 mm Hg, nD20 = 1.5224.

reactant | car-3-en-5-one | C12CC(=CC(C1C2(C)C)=O)C | C10H14O
reactant | methylmercaptan | CS | CH4S
product | 3-methylthio-caran-5-on | CSC1(CC2C(C(C1)=O)C2(C)C)C | C11H18OS
